US07202245B2
8-Fluoro-4-piperazin-1-yl-[1,2,4]triazolo[4,3-a]quinoxalin-1-one
A solution of 300 mg of 4-chloro-8-fluoro-1-methoxy-[1,2,4]triazolo[4,3-a]quinoxaline, 221 mg of tert-butyl-N-(piperazine)carbamate, and 360 mg of triethylamine in acetonitrile (4.0 mL) was stirred at room temperature. After 16 hrs., the solvent was removed, and the residue was separated by silica gel chromatography to give 280 mg of a yellow foam. The foam was dissolved in a 1:1.5 mixture of 48% HBr/AcOH, and the mixture was heated to reflux for 2 hrs. The reaction mixture was concentrated to give 97 mg of a yellow solid. MS (M−H)−=287.1.

reactant | 4-chloro-8-fluoro-1-methoxy-[1,2,4]triazolo[4,3-a]quinoxaline | 300 mg | ClC=1C=2N(C3=CC(=CC=C3N1)F)C(=NN2)OC | C10H6ClFN4O
reactant | triethylamine | 360 mg | C(C)N(CC)CC | C6H15N
reactant | acetonitrile | 4.0 mL | C(C)#N | C2H3N
product | 8-Fluoro-4-piperazin-1-yl-[1,2,4]triazolo[4,3-a]quinoxalin-1-one | 280 mg | FC1=CC=C2N=C(C=3N(C2=C1)C(NN3)=O)N3CCNCC3 | C13H13FN6O
